data/rdb19/train.csv
rxn,smiles,ea
2220,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[H:22])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])[C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])([H:20])[H:21])([H:17])([H:18])[H:19],17.79062169417739
1427,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],27.07445420348085
4597,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21][c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[H:29])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],25.290893198165577
1589,[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])([H:5])[H:23])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],21.39865220058709
5489,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:17](=[C:18][N:19]([C:20](=[O:21])[H:26])[H:25])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])[H:24])([H:12])[H:13])([H:9])([H:10])[H:11],25.02149986702716
3545,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][O:21][C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])[H:26],37.99082147900481
323,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[H:3][C:10]([C:8]([C:6]([O:5][C:4]([H:11])([H:12])[H:13])=[O:7])=[C:9]([H:14])[H:15])([H:16])[H:18].[O:1][O:2][H:17],46.20736180088716
134,[C:12]([O:13][C:14](=[C:15]([H:20])[H:21])[H:19])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([O:13][C:14](=[C:15][H:21])[H:19])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:20])([H:6])([H:7])[H:8],37.60145624974393
1539,[C:10]([C:11]([C:12]([H:13])[H:14])([N:15]([C:16](=[O:17])[H:23])[H:22])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[N:15]([C:16](=[O:17])[H:23])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:21])[H:6],46.16026267682901
4694,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[C:18]([C:17]([H:22])[H:23])([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],22.0944217776414
3613,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:22]1([H:36])[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]([H:39])[C:24]([H:38])=[C:23]1[H:37],39.19574633910088
